US05965756
3b) Preparation of N-(cyclohexyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-2-methyl-s-indacen-1-yl)silanamine
Chlorodimethyl(1,5,6,7-tetrahydro-2-methyl-s-indacen-1-yl) silane (5.67 g, 0.0216 moles) was stirred in hexane (50 mL) as NEt3 (2.18 g, 0.0216 moles) and cyclohexylamine (2.13 g, 0.0216 moles) were added. This mixture was allowed to stir 16 hours. After the reaction period the mixture was filtered and the volatiles removed resulting in the isolation of the desired product as a yellow oil (6.62 g, 94.3 percent).

reactant | Chlorodimethyl(1,5,6,7-tetrahydro-2-methyl-s-indacen-1-yl) silane | 0.0216 moles, 5.67 g | Cl[Si](C1C(=CC2=CC=3CCCC3C=C12)C)(C)C | C15H19ClSi
reactant | NEt3 | 0.0216 moles, 2.18 g | CCN(CC)CC | C6H15N
reactant | cyclohexylamine | 0.0216 moles, 2.13 g | C1(CCCCC1)N | C6H13N
solvent | hexane | 50 mL | CCCCCC | C6H14
product | N-(cyclohexyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-2-methyl-s-indacen-1-yl)silanamine | 6.62 g, 94.3 percent | C1(CCCCC1)N[Si](C1C(=CC2=CC=3CCCC3C=C12)C)(C)C | C21H31NSi
